US07589232B2
Step b) Formation of 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(7-carboxyheptanoyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using methyl 8-[{4-[(4-butylphenyl)ethynyl]benzyl}(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)amino]-8-oxooctanoate and NaOH 1M aq in the presence of EtOH as a white powder (35%). 1H NMR (CDCl3, 300 MHz) δ 10.69 (br s, 1H), 7.57 (d, J=2.3 Hz, 1H), 7.43 (m, 4H), 7.16 (m, 4H), 7.02 (dd, J=8.7, 2.3 Hz, 1H), 6.94 (d, J=8.7 Hz, 1H), 4.87 (s, 2H), 2.62 (t. J=7.5 Hz, 2H), 2.30 (t, J=7.4 Hz, 2H), 2.11 (t, J=7.3 Hz, 2H), 1.60 (m, 6H), 1.36 (m, 2H), 1.25 (m, 4H), 0.93 (t, J=7.3 Hz, 3H). M− (ESI): 554.3, M+ (ESI): 556.4. HPLC, Rt: 5.03 min (Purity: 99%).

reactant | methyl 8-[{4-[(4-butylphenyl)ethynyl]benzyl}(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)amino]-8-oxooctanoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCCCC(=O)OC)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C38H43NO6
reactant | NaOH | 1M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(7-carboxyheptanoyl)amino]-2-hydroxybenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(CCCCCCC(=O)O)=O)C=C1 | C34H37NO6
